
simulator lang=spectre

// This is a generated file.
// Be careful when editing manually: this file may be overwritten.

global 0

include "/home/ff/eecs251b/sky130/sky130_cds/sky130_release_0.0.1/models/sky130.lib.spice" section=tt

simulator lang=spice 

.include 'as.post.sp'

.SUBCKT inverter vdd vss din dout

  Xinst0 dout din vss vss nfet_01v8 l=0.150u nf=1 w=1.000u
  Xinst1 dout din vdd vdd pfet_01v8 l=0.150u nf=1 w=1.600u

.ENDS inverter



simulator lang=spectre

parameters Vcm=1.45 Vdiff=0.02 frequency=100K

parameters sw=1.4

xinst0 ( 0 output_p vinp vinn clk vdd output_n ) strong_arm
*xinst1 ( vinp 0 ) vsource dc=Vcm type=sine ampl=Vdiff freq=frequency
*xinst2 ( vinn 0 ) vsource dc=Vcm type=sine ampl=-Vdiff freq=frequency
xinst1 ( vinp 0 ) vsource dc=1.5 type=dc
xinst2 ( vinn 0 ) vsource dc=sw type=dc
xinst3 ( vdd 0 ) vsource dc=1.8 type=dc
xinst4 ( clk 0 ) vsource delay=0 fall=100p period=5u rise=100p type=pulse val0=1.8 val1=0 width=2.5u
xinst5 (vdd 0 output_n output_n1 ) inverter 
xinst6 (vdd 0 output_p output_p1 ) inverter

settemp1 options temp=25.0
save output_p
save vinp
save output_n
save vinn
save clk
saveopts options save=allpub


*precharge_Vcm sweep param=Vcm start=1.3 stop=1.5 step=0.01 {
*        analysis_0 tran stop=6u errpreset=conservative
*}


*analysis_0 tran stop=6u errpreset=conservative

simulator lang=spice

.dc sw 0.9 2 0.05

.meas tran maxvn max v(output_n)
.meas tran minvn min v(output_n)
.meas tran t1 param ='(maxvn-minvn) *0.5'
.meas tran clock_to_qn trig v(clk) val='1.8*0.5' rise=1 targ v(output_n) val=t1  fall=1
.meas tran maxvp max v(output_p)
.meas tran minvp min v(output_p)
.meas tran t2 param ='(maxvp-minvp) *0.5'
.meas tran clock_to_qp trig v(clk) val='1.8*0.5' rise=1 targ v(output_p) val=t1  fall=1

