
simulator lang=spectre

// This is a generated file.
// Be careful when editing manually: this file may be overwritten.

global 0

*include "/home/ff/eecs251b/sky130/sky130_cds/sky130_release_0.0.3/models/sky130.lib.spice" section=tt


simulator lang=spice 
.lib '/home/ff/eecs251b/sky130/sky130_cds/sky130_release_0.0.1/models/sky130.lib.spice' tt 
.include 'sky130_fd_sc_hd.spice'
.include 'sram_write_test_core.sp' 

simulator lang=spectre

parameters vctr=0.4 Vdiff=0.02 frequency=100K

xinst0 ( VDD 0 en_bar WL vctr Vcell ) sram_write_test_core 
xinst2 ( VDD 0 ) vsource dc=1.8 type=dc 
xinst3 ( WL 0 ) vsource type=pwl wave=[
+0u 0 49.99995u 0
+50u 1.8V 200u 1.8V
+]
xinst4 ( en_bar 0 ) vsource type=pwl wave=[
+0u 1.8 49.99995u 1.8
+50u 0 200u 0
+]
xinst5 ( Vcell 0 ) vsource type=pwl wave=[
+0u 0 49.99995u 0
+50u 1.5V 200u 1.5V
+]
*xinst1 ldotop_vout v1 0 0 sky130_fd_pr__nfet_01v8 l=0.15u nf=1 w=0.6u
*xinst7 ldotop_vout vsqu 0 0 sky130_fd_pr__nfet_01v8 l=0.15u nf=1 w=0.6u
*xinst2 ( vinp 0 ) vsource dc=Vcm type=sine ampl=Vdiff freq=frequency
*xinst4 ( ldotop_vref 0 ) vsource dc=Vcm type=sine ampl=-Vdiff freq=frequency
*xinst3 ( ldotop_vdd 0 ) vsource dc=1.8 type=dc
*xinst9 ( v1 0 ) vsource dc=1.5 type=dc
*xinst4 ( ldotop_vref 0 ) vsource dc=1.5 type=dc
*xinst5 ( ldotop_clk 0 ) vsource delay=0 fall=100p period=5u rise=100p type=pulse val0=1.8 val1=0 width=2.5u
*xinst5 (ldotop_clk 0) vsource type=pulse val0=0 val1=1.8 period=2.5u rise=100p fall=100p width=1.25u delay=0  
*xinst5 (ldotop_clk 0) vsource type=pulse val0=0 val1=1.8 period=1u rise=100p fall=100p width=500n delay=0
*xinst6 ( ldotop_rst 0) vsource type=pwl wave=[
*+ 0u 1.8 9.995u 1.8
*+ 10u 0 100u 0
*+]

settemp1 options temp=25.0
save vctr
save en_bar
save WL
save Vcell
save xinst0.X3.X2.out_n3
*save I(xinst2)
saveopts options save=allpub


Vctr sweep param=Vcm start=0.4 stop=0.9 step=0.01 {
        analysis_0 tran stop=100u errpreset=conservative
}


*analysis_0 tran stop=100u errpreset=conservative

simulator lang=spice

.probe v(xinst0)
.probe i(xinst0)
